US07795236B2
N-[3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-ylmethyl]-phthalimide
[3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-yl]-methanol (0.40 g) was dissolved in tetrahydrofuran (4.1 mL). After addition of phthalimide (0.14 g) and triphenylphosphine (0.26 g) were added, diisopropyl azodicarboxylate (40% toluene solution, 0.5 g) was added dropwise, and the resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound (0.4 g)

reactant | [3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-yl]-methanol | 0.40 g | C(C1=CC=CC=C1)OC(=O)NCCCCC=1C=C(C=CC1)C1=CC=C(C=C1)CO | C25H27NO3
reactant | phthalimide | 0.14 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.5 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 4.1 mL | O1CCCC1 | C4H8O
product | N-[3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-ylmethyl]-phthalimide | 0.4 g | C(C1=CC=CC=C1)OC(=O)NCCCCC=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C33H30N2O4
